US20010036946A1
1-[N2-[N-(phenylmethoxycarbonyl)-3,5-dichloro-D-tyrosyl]-N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine
A mixture of 5 g (13.0 mmol) of 3,5-dichloro-N-[(phenylmethoxy)carbonyl]-D-tyrosine, 5.1 g (13.0 mmol) of 1-[N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine, 1.81 g (14 mmol) of DIEA, 4.17 g (13 mmol) of TBTU, 1.75 g (13.0 mmol) of HOBt and 200 ml of tetrahydrofuran was stirred at room temperature overnight. The reaction mixture was evaporated down in vacuo, the residue was taken up in ethyl acetate/methanol (95/5) and washed twice with saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried, evaporated down in vacuo and the residue was purified by column chromatography (MN-silica gel 60, Macherey-Nagel, 70-230 mesh ASTM, eluant: ethyl acetate/methanol=6/4 (v/v)). 6.0 g (610of theory) of a yellowish oil were obtained. Rf: 0.47 (FM1) ESI-MS: (M+H)+=757/759/761 (Cl2)

reactant | 3,5-dichloro-N-[(phenylmethoxy)carbonyl]-D-tyrosine | 13.0 mmol, 5 g | ClC=1C=C(C[C@@H](NC(=O)OCC2=CC=CC=C2)C(=O)O)C=C(C1O)Cl | C17H15Cl2NO5
reactant | 1-[N6-[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-4-(4-pyridinyl)-piperazine | 13.0 mmol, 5.1 g | CC(C)(OC(=O)NCCCC[C@H](N)C(=O)N1CCN(CC1)C1=CC=NC=C1)C | C20H33N5O3
reactant | DIEA | 14 mmol, 1.81 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 13 mmol, 4.17 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 13.0 mmol, 1.75 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Cl2 | ClCl | Cl2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-[N2-[N-(phenylmethoxycarbonyl)-3,5-dichloro-D-tyrosyl]-N6-(1,1-dimethylethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | C1(=CC=CC=C1)COC(=O)N[C@H](CC1=CC(=C(C(=C1)Cl)O)Cl)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1CCN(CC1)C1=CC=NC=C1 | C37H46Cl2N6O7
